US08486937B2
N-[(3S)-1-Azabicyclo[2.2.2]oct-3-yl]-6-bromo-1,2-benzisoxazole-3-carboxamide
Palladium (II) acetate (0.040 mmol) was added to a solution of (R)-(+)-2,2′-bis(diphenylphosphino)-1,1′-binaphthyl (0.050 mmol) in toluene (6 mL) and the reaction mixture was maintained until the contents completely dissolved. The resultant yellow solution was transferred to a mixture of N-[(3S)-1-azabicyclo[2.2.2]oct-3-yl]-6-bromo-1,2-benzisothiazole-3-carboxamide (0.30 mmol), cesium carbonate (0.50 mmol) and N-methylacetamide (0.500 mmol) under an atmosphere of nitrogen gas and the reaction mixture was subjected to microwave irradiation at 200° C. for 300 s. The reaction mixture was filtered through Celite and concentrated. The residue was purified by HPLC, thus providing the product in 50% yield.

reactant | (R)-(+)-2,2′-bis(diphenylphosphino)-1,1′-binaphthyl | 0.050 mmol | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=C(C4=CC=CC=C4C=C3)C5=C(C=CC6=CC=CC=C65)P(C7=CC=CC=C7)C8=CC=CC=C8 | C44H32P2
reactant | N-[(3S)-1-azabicyclo[2.2.2]oct-3-yl]-6-bromo-1,2-benzisothiazole-3-carboxamide | 0.30 mmol | N12C[C@H](C(CC1)CC2)NC(=O)C2=NSC1=C2C=CC(=C1)Br | C15H16BrN3OS
reactant | cesium carbonate | 0.50 mmol | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | N-methylacetamide | 0.500 mmol | CNC(C)=O | C3H7NO
solvent | toluene | 6 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Palladium (II) acetate | 0.040 mmol | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | N-[(3S)-1-Azabicyclo[2.2.2]oct-3-yl]-6-bromo-1,2-benzisoxazole-3-carboxamide | 50% yield | N12C[C@H](C(CC1)CC2)NC(=O)C2=NOC1=C2C=CC(=C1)Br | C15H16BrN3O2
